US09403782B2
To a solution of -(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one (52 mg, 0.17 mmol), 2-(6-methylpyridin-2-yl)ethanol (30 mg, 0.22 mmol), and triphenylphosphine (62 mg, 0.24 mmol) in THF (1 mL) was added DEAD (37 μL, 0.24 mmol) and the reaction was stirred overnight. The reaction was concentrated and purified by reverse phase HPLC to afford 2-(2-(6-methylpyridin-2-yl)ethyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one.

reactant | (4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | 0.17 mmol, 52 mg | FC(OC1=CC=C(C=C1)N1C(C2=CC=CC=C2C=N1)=O)(F)F | C15H9F3N2O2
reactant | 2-(6-methylpyridin-2-yl)ethanol | 0.22 mmol, 30 mg | CC1=CC=CC(=N1)CCO | C8H11NO
reactant | triphenylphosphine | 0.24 mmol, 62 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.24 mmol, 37 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(2-(6-methylpyridin-2-yl)ethyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | CC1=CC=CC(=N1)CCN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C23H18F3N3O2
